US06121316
Ethyl (R)-(-)-3-triisopropylsilyloxybutyrate
0.077 mol (10.0 g) of ethyl(R)-3-hydroxybutyrate is dissolved in 90 ml of dimethylformamide and 0.151 mol (10.3 g) of imidazole is added. The mixture is cooled to 0° C. under protective gas in an ice bath and 0.083 mol (16.05 g) of triisopropylsilyl chloride is added dropwise over 5 min. The mixture is stirred at room temperature for a further 5 hours, hydrolyzed with water, the product is extracted with tert-butyl methyl ether, and the organic phase is dried using Na2SO4 and concentrated under reduced pressure on a rotary evaporator.

reactant | ethyl(R)-3-hydroxybutyrate | 0.077 mol, 10.0 g | O[C@@H](CC(=O)OCC)C | C6H12O3
reactant | imidazole | 0.151 mol, 10.3 g | N1C=NC=C1 | C3H4N2
reactant | triisopropylsilyl chloride | 0.083 mol, 16.05 g | C(C)(C)[Si](C(C)C)(C(C)C)Cl | C9H21ClSi
reactant | water | O | H2O
solvent | dimethylformamide | 90 ml | CN(C=O)C | C3H7NO
product | Ethyl (R)-(-)-3-triisopropylsilyloxybutyrate | C(C)(C)[Si](O[C@@H](CC(=O)OCC)C)(C(C)C)C(C)C | C15H32O3Si
